US08735379B2
To a mixture of tert-butyl 2-(benzylamino)ethylcarbamate (2.8 g, 11.2 mmol) and 37% aqueous CH2O (1.0 mL, 11.2 mmol) in 1,2-dicholoroethane (35 mL) at RT was added NaHB(AcO)3 (3.7 g, 11.2 mmol). The mixture was stirred (RT, 16 h), diluted with saturated aqueous NaHCO3 (400 ml) and extracted with EA (3×300 ml). The organic layer was dried over MgSO4 and concentrated under reduced pressure to afford tert-butyl 2-(benzyl(methyl)amino)ethylcarbamate (1.38 g, 46.8%). 1HNMR (CDCl3): δ7.25 (m, 5H, CH), 3.5 (s, 2H, CH2), 3.3 (m, 2H, CH2), 2.48 (m, 2H, CH2), 2.2 (s, 3H, CH3), 1.4 (s, 9H, CH3).

reactant | tert-butyl 2-(benzylamino)ethylcarbamate | 11.2 mmol, 2.8 g | C(C1=CC=CC=C1)NCCNC(OC(C)(C)C)=O | C14H22N2O2
reactant | CH2O | 11.2 mmol, 1.0 mL | C=O | CH2O
solvent | NaHCO3 | 400 ml | C(=O)(O)[O-].[Na+]
product | tert-butyl 2-(benzyl(methyl)amino)ethylcarbamate | 1.38 g, 46.8% | C(C1=CC=CC=C1)N(CCNC(OC(C)(C)C)=O)C | C15H24N2O2
